US09120822B2
N,O-dimethyl-hydroxylamine hydrochloride (10 mg, 0.10 mmol, 1.2 equivalent) is added at room temperature to a stirred solution of trans-4-benzyloxycarbonylamino-cyclohexanecarboxylic acid (23 mg, 0.08 mmol, 1.0 eq) in N,N-dimethylformamide (5 mL), followed by O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (63 mg, 0.16 mmol, 2.0 eq) and sodium hydrogen carbonate (15 mg, 0.18 mmol, 2.2 eq). After 12 hours stirring at room temperature, solvent is evaporated and the residue is extracted with ethyl acetate (3×10 mL) and a saturated ammonium chloride aqueous solution (10 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 2:1, v/v) to afford [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid benzyl ester as a colorless solid (8 mg, 30% yield).

reactant | N,O-dimethyl-hydroxylamine hydrochloride | 0.10 mmol, 10 mg, 1.2 equivalent | Cl.CNOC
reactant | trans-4-benzyloxycarbonylamino-cyclohexanecarboxylic acid | 0.08 mmol, 23 mg, 1.0 eq | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C15H19NO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.16 mmol, 63 mg, 2.0 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | sodium hydrogen carbonate | 0.18 mmol, 15 mg, 2.2 eq | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid benzyl ester | 8 mg, 30% yield | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C17H24N2O4
